* c:\Users\Administrador\Documents\TC1\tp4\TP-TC1\filtros\mc_full\fig5_19.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1 0
R1 N002 N001 52.0091
L1 N002 N003 0.000996855 Rser=0
C1 N003 0 1.05155e-08
.ac dec 100 1k 1meg
.backanno
.end
